US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[6-(1H-indol-3-yl)hexyl]acetamide
1-Hydroxybenzotriazole (540 mg, 4.0 mmol), 6-(1H-indol-3-yl)hexylamine (432 mg, 2.0 mmol) and N-methylmorpholine (0.444 ml, 4.0 mmol) were added to a solution of 4-dimethylamino-4-phenylcyclohexyl-acetic acid hydrochloride (595 mg, 2.0 mmol) in dry dimethylformamide (10 ml) under argon. The clear solution was cooled in an ice-bath, dicyclohexylcarbodiimide (825 mg, 4.0 mmol) was added and the mixture was stirred at RT for 5 d, during which dicyclohexylurea precipitated out. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. After 10 min the crude product precipitated out of the filtrate and was filtered off. The aqueous phase was diluted with water (300 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 3 d. Further product thereby precipitated out as a beige-coloured solid in a yield of 9% (82 mg) with an m.p. of 152-156° C. The crude product was purified by chromatography on silica gel (40 g) with EA/methanol (4:1) and (1:1). The product was thereby isolated as a beige-coloured compound (534 mg) in a yield of 58%.

reactant | 1-Hydroxybenzotriazole | 4.0 mmol, 540 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 6-(1H-indol-3-yl)hexylamine | 2.0 mmol, 432 mg | N1C=C(C2=CC=CC=C12)CCCCCCN | C14H20N2
reactant | N-methylmorpholine | 4.0 mmol, 0.444 ml | CN1CCOCC1 | C5H11NO
reactant | 4-dimethylamino-4-phenylcyclohexyl-acetic acid hydrochloride | 2.0 mmol, 595 mg | Cl.CN(C1(CCC(CC1)CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 4.0 mmol, 825 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[6-(1H-indol-3-yl)hexyl]acetamide | 534 mg, yield of 58% | CN(C1(CCC(CC1)CC(=O)NCCCCCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C30H41N3O
